* D:\Git\Magnavox_TVG2\SPICE\new\DMV.asc
Q1 N003 N005 -9V 0 2N2222
Q2 N001 N007 -9V 0 2N3391A
R1 N003 N007 27k
C1 N005 N001 550p
R2 0 N001 1k
R3 +9V N003 33k
V1 +9V 0 9
V2 0 -9V 9
R4 N007 N008 100k
C2 N008 P001 27p
V4 P001 0 PULSE(0 -9 0 0 0 4.7u 63.556u)
Q3 Dot_VDO N004 0 0 2N2907
R7 N004 N006 4.7k
R8 N006 -9V 80k
C3 N004 N001 180p
Q4 Vertical_Blanking N010 -9V 0 2N2222
Q5 N009 N011 -9V 0 2N2222
R11 +9V Vertical_Blanking 10k
C4 N010 N009 .2µ
R12 0 N009 3.3k
R15 Vertical_Blanking N011 100k
C5 Vertical_Blanking N011 390p
R16 N011 N013 100k
C6 N013 P002 1000p
V5 P002 0 PULSE(0 9 0 0 0 1m 16.683m)
Q6 Dot_VDO N012 0 0 2N2907
C7 N012 N009 .05µ
R17 N012 P003 4.7k
R18 P003 -9V 50k
R19 Dot_VDO -9V 3.3k
R5 N002 N005 110k
V3 N002 0 0
R6 0 N010 20k
.model NPN NPN
.model PNP PNP
.lib C:\Users\hudai\OneDrive\Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 30m
.backanno
.end
